US04146385
(1) Preparation of 4'-trifluoromethyl-3-methoxybenzophenone
This is carried out under nitrogen at -60° C. 0.29 mol (65 g) of para-bromo-trifluoromethylbenzene dissolved in 100 ml of anhydrous ether is added dropwise to 0.29 mol of butyl-lithium in solution in ether (1.48 mol/liter). The reaction is followed by gas phase chromatography; when there is no longer any remaining para-bromo-trifluoromethylbenzene, 0.29 mol (50.5 g) of sodium 3-methoxybenzoate is added. The mixture is allowed to return to ambient temperature. After stirring for 64 hours, it is hydrolysed in iced water. The batch is extracted with ether. The ether phase is dried, decolorised and concentrated. 45 g of a product which has been recrystallised from a mixture of isopropyl ether and hexane are obtained. Melting point 69° C. Yield: 55%.

reactant | para-bromo-trifluoromethylbenzene | 0.29 mol, 65 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | butyl-lithium | 0.29 mol | C(CCC)[Li]
reactant | sodium 3-methoxybenzoate | 0.29 mol, 50.5 g | COC=1C=C(C(=O)[O-])C=CC1.[Na+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 1.48 mol/liter | CCOCC | C4H10O
solvent | water | O | H2O
product | 4'-trifluoromethyl-3-methoxybenzophenone | Yield: 55% | FC(C1=CC=C(C=C1)C(C1=CC(=CC=C1)OC)=O)(F)F | C15H11F3O2
